US09284271B2
N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4′-methoxybiphenyl-2-carboxamide was prepared according to method B with N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide (0.075 g; 0.176 mmol), 4-methoxyphenylboronic acid (0.028 g; 0.180 mmol), tetrakis(triphenylphosphine)palladium (0.010 g; 0.009 mmol), sodium carbonate (0.037 g; 0.353 mmol), in dimethoxyethane (3 mL) and water (1 mL), irradiated in a microwave oven at 130° C. for 15 minutes. Flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in dichloromethane) furnished 0.067 g (94%) of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4′-methoxybiphenyl-2-carboxamide as a white solid.

reactant | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-2-iodobenzamide | 0.176 mmol, 0.075 g | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=C(C=CC=C1)I)=O | C17H14ClIN2O
reactant | 4-methoxyphenylboronic acid | 0.180 mmol, 0.028 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 0.353 mmol, 0.037 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.009 mmol, 0.010 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-4′-methoxybiphenyl-2-carboxamide | 0.067 g, 94% | ClC=1C=C2C(=CNC2=CC1)CCNC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)OC | C24H21ClN2O2
